US05550117
11-Cyclopropyl-4-methyl-6-methylthio-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine
To a warm (40° C.) solution of 1.0 g (3.54 mmol) of 11-cyclopropyl-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-thione in 25 mL of dry dimethylformamide under argon was added 200 mg (4.43 mmol) of a 60% sodium hydride on mineral oil dispersion. The suspension was heated at 60° for 30 min., cooled to 40° C., and 0.3 mL (4.43 mmol) of iodomethane was added in one portion. After stirring the mixture for 1 hr at room temperature, ethanol was added dropwise until bubbling ceased. The mixture was then poured over 200 mL of water, and the product was extracted with 2×200 mL of ethyl ether. The combined organics were washed with 300 mL of water, dried (Na2SO4), and concentrated. The resulting reddish solid was flash chromatographed over silica gel (eluted with 83% methylene chloride/ethyl acetate) to give a yellow solid. Recrystallization from ethyl ether/petroleum ether gave 350 mg of the title compound, m.p. 173°-177° C.

reactant | 11-cyclopropyl-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-thione | 3.54 mmol, 1.0 g | C1(CC1)N1C2=C(NC(C3=C1N=CC=C3)=S)C(=CC=N2)C | C15H14N4S
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 4.43 mmol, 0.3 mL | IC | CH3I
reactant | ethanol | C(C)O | C2H6O
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 11-Cyclopropyl-4-methyl-6-methylthio-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine | 350 mg | C1(CC1)N1C2=C(N=C(C3=C1N=CC=C3)SC)C(=CC=N2)C | C16H16N4S
